Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
headache
 
Major Surgical or Invasive Procedure:
s/p SVD

 
History of Present Illness:
___ y/o G1 ___ ___ presented to triage with the complaint of 
HA x 3 days unrelieved with 2 extra strength Tylenol every ___ 
hours. Also with a sore throat and right ear pain. She denied 
constractions, vaginal spoting or leaking. Active
fetal movements.

PNC
*) Dating ___ ___
*) Labs: A pos/Ab neg/R-I/RPR-NR/HIV neg/HBsAg neg/
*) CF neg, low risk ERA, AFP neg
*) glucola normal
*) FFS unremarkable, placenta posteior no previa, 3 VC.
issues
Immune deficiency gets monthly IVIG
thrombocytopenia
 
Past Medical History:
OBHx G1
GYNHx LMP ___, denies abn pap/STI's
PMH eczema, immune deficiency
surg denies

 
Social History:
FOB not involved, lives with her father, smokes less than 10 
cigarettes daily but denies D/E.
 
Physical Exam:
On admission
BP  130/85--135/88--135/80
HR 100  RR 20  temp 98.9 
neck right ant nodes palpable
throat no erythema
TM cone bilateral seen
FHT 150 ___, pos accels, no decels, mod var, reactive
Toco no contractions noted

 
Pertinent Results:
___ 01:40PM BLOOD WBC-7.9 RBC-4.19* Hgb-11.6* Hct-34.5* 
MCV-82 MCH-27.6 MCHC-33.5 RDW-14.2 Plt ___
___ 03:20PM BLOOD WBC-6.6 RBC-4.10* Hgb-11.4* Hct-33.8* 
MCV-83 MCH-27.9 MCHC-33.8 RDW-14.3 Plt Ct-84*
___ 06:00PM BLOOD WBC-5.8 RBC-4.11* Hgb-11.5* Hct-34.6* 
MCV-84 MCH-28.1 MCHC-33.4 RDW-14.2 Plt Ct-90*
___ 11:59PM BLOOD WBC-8.4 RBC-4.38 Hgb-12.1 Hct-36.5 MCV-83 
MCH-27.7 MCHC-33.2 RDW-14.3 Plt Ct-99*
___ 09:18AM BLOOD WBC-10.1 RBC-4.19* Hgb-11.5* Hct-34.9* 
MCV-83 MCH-27.4 MCHC-32.8 RDW-14.1 Plt Ct-91*
___ 04:00PM BLOOD WBC-9.6 RBC-4.06* Hgb-11.4* Hct-33.7* 
MCV-83 MCH-28.2 MCHC-33.9 RDW-14.4 Plt Ct-81*
___ 08:35AM BLOOD WBC-11.4* RBC-3.34* Hgb-9.4* Hct-27.9* 
MCV-84 MCH-28.3 MCHC-33.8 RDW-14.7 Plt Ct-95*
___ 05:50PM BLOOD WBC-2.6*# RBC-2.80* Hgb-7.8* Hct-23.2* 
MCV-83 MCH-27.7 MCHC-33.5 RDW-14.7 Plt Ct-76*
___ 09:45PM BLOOD WBC-3.4* RBC-2.88* Hgb-8.3* Hct-24.3* 
MCV-85 MCH-28.6 MCHC-33.9 RDW-14.7 Plt Ct-84*
___ 10:40AM BLOOD WBC-3.0* RBC-2.75* Hgb-7.9* Hct-23.2* 
MCV-84 MCH-28.7 MCHC-34.0 RDW-14.4 Plt Ct-81*
___ 06:41AM BLOOD WBC-3.1* RBC-2.73* Hgb-7.8* Hct-23.6* 
MCV-86 MCH-28.4 MCHC-33.0 RDW-14.4 Plt Ct-82*
___ 06:00PM BLOOD ___ PTT-34.2 ___
___ 01:50PM BLOOD IgG-258* IgA-PND IgM-PND
___ 06:28PM BLOOD Hapto-174
___ 01:41PM URINE Hours-RANDOM Creat-71 TotProt-7 
Prot/Cr-0.1

___: MR ___ w/ and w/o contrast
FINDINGS: 
  
There is no intra-axial or extra-axial hemorrhage, mass, or 
midline shift. Ventricles and sulci are symmetric and 
unremarkable.  There is no parenchymal signal abnormality nor 
susceptibility artifact.  There is a small amount of increased 
CSF signal overlying the left frontal lobe to 4 mm in thickness 
without enhancement, (series 9 image 14) potentially trace 
effusion versus a small arachnoid cyst.  There is no restricted 
diffusion to suggest acute infarct. The pituitary gland appears 
enlarged.  Major intravascular flow voids including within the 
major dural venous sinuses are preserved.  There is no evidence 
of venous thrombosis.   
  
Post-contrast images demonstrate diffuse pachymeningeal 
enhancement identified intracranially and along the upper spinal 
canal.  Incidentally noted is a right parietal developmental 
venous anomaly.   
  
IMPRESSION: 
  
Diffuse pachymeningeal enhancement with enlargement of the 
pituitary gland.  Findings are compatible with intracranial 
hypotension in this patient with headaches status post recent 
delivery with epidural anesthesia. No evidence of venous 
thrombosis.   

 
Brief Hospital Course:
Ms ___ was admitted to the ___ service for monitoring 
of her headache, given its severity. Despite treatment with 
multiple meds (including IV magnesium), the headache remained 
severe and unremitting. Her platelet count fell from 117 on 
admission to 76 on hospital day #4, and she developed 
hypertension, with two blood pressures >6 hours apart that were 
>140/90. On ___ she was therefore diagnosed with atypical severe 
pre-eclampsia, started on magnesium sulfate for seizure 
prophylaxis and labor induction was begun. 

On ___ she underwent vaginal delivery of a viable infant. 
Postpartum she continued to have a severe headache poorly 
responsive to pain medication. On postpartum day 2 an MRI was 
obtained and neurology was consulted. MRI was significant for 
pachymeningeal enhancement compatible with intracranial 
hypotension and she was diagnosed with a dural tear likely 
secondary to the upper respiratory tract infection she had 
immediately preceeding onset of these HA. The headaches were 
then treated with caffeine and IV fluids and responded well. She 
was discharged on PPD#5 once her headaches had reduced 
significantly in intensity and had responded well to po 
medications.

She did not require any anti-hypertensives during her postpartum 
course.

Of note, pt was found to have a leukopenia beginning on PPD#2, 
felt likely secondary to her pre-existing immune deficiency 
which stabalized at a WBC of 3 (nadir 2.6). 
 
Medications on Admission:
PNV, weekly SQ injections of Hyzantra
 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
2. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth q 6 hours Disp #*40 
Tablet Refills:*0
3. Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN pain 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
tablet(s) by mouth ___ q 6 hours prn Disp #*50 Tablet Refills:*0
4. Ferrous Sulfate 325 mg PO BID 
Please use stool softener to avoid constipation. 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
twice daily Disp #*60 Tablet Refills:*2

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p Spontaneous Vaginal Delivery
Common Variable Imuuno Deficiency
Thrombocytopenia
Headache

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
See printed discharge instructions

Continue using caffeine (fioricet, excedrin, or coffee/tea/soda) 
as needed for headache
 
Followup Instructions:
___